US04022795
The reaction is carried out as in Example 9 except that the 18.7 parts of 4-bromoanisole are replaced by 23.3 parts of 4-bromobiphenyl, and 110 parts of xylene are added as a solvent. After the reflux period, the reaction mixture is not steam distilled, but is cooled, and the solids present are collected by filtration, and washed on the filter with water and with 200 parts of toluene. The filter cake is dried, transferred to a Soxhlet extractor and continuously extracted for 96 hours with 100 parts of boiling dimethyl formamide. Quaterphenyl crystallises when the dimethyl formamide is cooled, and is collected and dried. 7.3 parts of quaterphenyl, m.p. 313°-317° are thereby obtained.

reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 4-bromobiphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | quaterphenyl | C1(=CC=CC=C1)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H18
